US06448242B1
Preparation of methyl 2,2-bis[(4-piperidinyl)-methyl]acetate dihydrochloride
A 4N hydrogen chloride in ethyl acetate (1.0 ml; 4.0 mmol) was added to a solution in ethyl acetate (0.5 ml) of methyl 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)-methyl]acetate (210 mg; 0.45 mmol) synthesized by the above process, and the mixture was stirred at room temperature for 30 minutes and then concentrated under reduced pressure. The concentrated residue was suspended in diethyl ether and collected by filtration to obtain 116 mg (yield: 76%) of the title compound as a colorless crystalline powder (melting point: 269-271° C.).

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | methyl 2,2-bis[(1-tert-butoxycarbonyl-4-piperidinyl)-methyl]acetate | 0.45 mmol, 210 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(C(=O)OC)CC1CCN(CC1)C(=O)OC(C)(C)C | C25H44N2O6
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4.0 mmol, 1.0 ml | C(C)(=O)OCC | C4H8O2
product | methyl 2,2-bis[(4-piperidinyl)-methyl]acetate dihydrochloride | 116 mg, yield: 76% | Cl.Cl.N1CCC(CC1)CC(C(=O)OC)CC1CCNCC1 | InChI=1S/C15H28N2O2.2ClH/c1-19-15(18)14(10-12-2-6-16-7-3-12)11-13-4-8-17-9-5-13;;/h12-14,16-17H,2-11H2,1H3;2*1H
